US07294644B2
5-(2-Chloro-5-trifluoromethyl-phenyl)-1-(2-hydroxy-cyclohexylmethyl)-2-methyl-1H-pyrrole-3-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide
The title compound was synthesized in analogy to Example 68, using 3-oxo-butyric acid methyl ester as compound of formula R, 2-bromo-1-(2-chloro-5-trifluoromethyl-phenyl)-ethanone as compound of formula S, cis-2-aminomethyl-1-cyclohexanol as R3—(CH2)m—NH2 and (1R,2R)-2-amino-cyclohexanol as R1R2NH, MS (ISP) 513.5 (M+H)+

reactant | 3-oxo-butyric acid methyl ester | COC(CC(C)=O)=O | C5H8O3
reactant | 2-bromo-1-(2-chloro-5-trifluoromethyl-phenyl)-ethanone | BrCC(=O)C1=C(C=CC(=C1)C(F)(F)F)Cl | C9H5BrClF3O
reactant | cis-2-aminomethyl-1-cyclohexanol | NC[C@@H]1[C@@H](CCCC1)O | C7H15NO
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-(2-Chloro-5-trifluoromethyl-phenyl)-1-(2-hydroxy-cyclohexylmethyl)-2-methyl-1H-pyrrole-3-carboxylic acid ((1R,2R)-2-hydroxy-cyclohexyl)-amide | O[C@H]1[C@@H](CCCC1)NC(=O)C1=C(N(C(=C1)C1=C(C=CC(=C1)C(F)(F)F)Cl)CC1C(CCCC1)O)C | C26H32ClF3N2O3
